US09163021B2
2-(3-iodo-1H-pyrrolo[3,2-c]pyridin-1-yl)-2-methylpropan-1-ol
To a solution of methyl 2-(3-iodo-1H-pyrrolo[3,2-c]pyridin-1-yl)-2-methylpropanoate (Preparation 67, 10.8 g, 31.38 mmol) in EtOH (100 mL) was added sodium borohydride (2.37 g, 62.8 mmol) and the reaction stirred at room temperature for 5 hours. The reaction was quenched by the addition of water (100 mL) and the phases separated through a phase separation cartridge. The organic layer was concentrated in vacuo to afford and orange oil that was triturated with ether to afford an orange solid as the title compound (3.86 g, 39%).

reactant | methyl 2-(3-iodo-1H-pyrrolo[3,2-c]pyridin-1-yl)-2-methylpropanoate | 31.38 mmol, 10.8 g | IC1=CN(C2=C1C=NC=C2)C(C(=O)OC)(C)C | C12H13IN2O2
reactant | sodium borohydride | 62.8 mmol, 2.37 g | [BH4-].[Na+]
solvent | EtOH | 100 mL | CCO | C2H6O
product | 2-(3-iodo-1H-pyrrolo[3,2-c]pyridin-1-yl)-2-methylpropan-1-ol | 3.86 g, 39% | IC1=CN(C2=C1C=NC=C2)C(CO)(C)C | C11H13IN2O
